US08461158B2
A solution of 2-(difluoromethyl)-4-methoxy-6-nitro-1H-benzimidazole (1.22 g, 5 mmol) in MeOH (50 mL) was hydrogenated over 10% Pd on C (50 mg). After filtration to remove the catalyst Pd/C, the solution was evaporated to dryness. The residue was combined with di-tert-butyl dicarbonate (3.2 g, 15 mmol) in dioxane (20 mL), and the mixture was heated under reflux for 5 hrs. The solvent was removed under vacuum and the residue was dissolved in MeOH (30 mL) containing aqueous NaOH (2 M, 12.5 mL, 5 equiv.). The mixture was stirred at room temperature for 1 hr, neutralized with HOAc, and evaporated to dryness. The residue was extracted with EtOAc, washed with NaHCO3 solution, and dried over Na2SO4. Chromatography on silica eluting with CH2Cl2/EtOAc (9:1) gave 1.54 g (98% yield) of tert-butyl 2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate: mp (i-Pr2O) 189-191° C.; 1H NMR (DMSO-d6) δ 13.0 (br, exchangeable with D2O, 1H), 9.31 (br s, exchangeable with D2O, 1H), 7.42 (br s, 1H), 7.15 (t, JHF=53.4 Hz, 1H), 6.90 (br, 1H), 3.90 (s, 3H), 1.49 (s, 9H); Anal. Calcd. For C14H17F2N3O3: C, 53.7; H, 5.5; N, 13.4. Found: C, 53.9; H, 5.6; N, 13.4%.

reactant | 2-(difluoromethyl)-4-methoxy-6-nitro-1H-benzimidazole | 5 mmol, 1.22 g | FC(C1=NC2=C(N1)C=C(C=C2OC)[N+](=O)[O-])F | C9H7F2N3O3
reactant | di-tert-butyl dicarbonate | 15 mmol, 3.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 2 M, 12.5 mL, 5 equiv. | [OH-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | MeOH | 50 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd | [Pd] | Pd
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | tert-butyl 2-(difluoromethyl)-4-methoxy-1H-benzimidazol-6-yl-carbamate | 1.54 g, 98% yield | FC(C1=NC2=C(N1)C=C(C=C2OC)NC(OC(C)(C)C)=O)F | C14H17F2N3O3
